US06974877B2
To a mixture of 1.0 gram of pentacene-5,7,12,14-tetrone in 100 mL of cyclohexanol was added 7.3 grams of aluminum tri(sec-butoxide). The reaction mixture was heated to 145° C. for 66 hours. The reaction mixture was cooled to room temperature and placed in a centrifuge. A dark solid was separated and washed 3 times with cyclohexanol followed by centrifugation. The residue was washed with acetone, isolated on a filter flask, and air dried to give pentacene

reactant | pentacene-5,7,12,14-tetrone | 1.0 gram | C1=CC=CC=2C(C3=CC=4C(C5=CC=CC=C5C(C4C=C3C(C12)=O)=O)=O)=O | C22H10O4
reactant | aluminum tri(sec-butoxide) | 7.3 grams | CC([O-])CC.CC([O-])CC.CC([O-])CC.[Al+3]
solvent | cyclohexanol | 100 mL | C1(CCCCC1)O | C6H12O
product | pentacene | C1=CC=CC2=CC3=CC4=CC5=CC=CC=C5C=C4C=C3C=C12 | C22H14
